US07259262B2
A mixture of 2.10 g (7.0 mmol) 2-(4-benzyloxy-phenyl)-4-chloromethyl-oxazole, 0.86 g (7.7 mmol) 2-(2-hydroxyethyl)-1H-imidazole, 1.28 g (7.7 mmol) potassium iodide and 0.31 g (7.7 mmol) sodium hydroxide in 30 ml 2-methyl-2-butanol was stirred under reflux over night. After evaporation, water was added and the residue extracted into ethyl acetate. The extract was dried, evaporated and purified on silica. Elution with ethyl acetate/methanolic ammonia 85:15 yielded 0.98 g (37%) 2-{1-[2-(4-benzyloxy-phenyl)-oxazol-4-ylmethyl]-1H-imidazol-2-yl}-ethanol as tan solid.

reactant | 2-(4-benzyloxy-phenyl)-4-chloromethyl-oxazole | 7.0 mmol, 2.10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC=C(N1)CCl | C17H14ClNO2
reactant | 2-(2-hydroxyethyl)-1H-imidazole | 7.7 mmol, 0.86 g | OCCC=1NC=CN1 | C5H8N2O
reactant | potassium iodide | 7.7 mmol, 1.28 g | [I-].[K+]
reactant | sodium hydroxide | 7.7 mmol, 0.31 g | [OH-].[Na+]
solvent | 2-methyl-2-butanol | 30 ml | CC(C)(CC)O | C5H12O
product | 2-{1-[2-(4-benzyloxy-phenyl)-oxazol-4-ylmethyl]-1H-imidazol-2-yl}-ethanol | 0.98 g, 37% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC=C(N1)CN1C(=NC=C1)CCO | C22H21N3O3
